Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Slurred Speech
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ h/o ___ disease w/ deep brain stimulator presented 
w/ slurred speech.

The patient reported he was hospitalized recently with a UTI and 
was discharged with a Foley catheter in place due to a failed 
trial of void. The Foley had concentrated urine. As per the 
patient's ___, he has been exhibiting symptoms similar to when 
he was last septic 2 weeks prior to admission. The patient 
reported he otherwise felt well, though recognized that his 
speech was
different. Did not report abdominal pain, nausea, vomiting, 
diarrhea, chest pain, cough, shortness of breath, fever, or 
chills. 

In the ED, initial vitals: T 98.6, HR 93, BP 118/86, RR 14, O2 
sat 95% RA  
- Exam notable for: AOx3. Following commands. Bilateral equal 
grips. Foley in place with orange urine in catheter and red 
tinged clear urine 300 cc in bag. CTAB. Soft NT abdomen  
- Labs notable for: WBC 22.8, Cr 0.9, lactate 1.7, UA mod blood, 
(+) nitrite, large leukesterase, few bacteria 
- Imaging notable for: CXR- no acute cardiopulmonary process. CT 
head- no acute intracranial abnormality. 
- Pt given: IV ceftriaxone 1g, started IV cefepime 2g, Tylenol 
1g x1
- Vitals prior to transfer: T 104.4, HR 102, BP 169/55, RR 22, 
O2 sat 96% RA 
 
Upon arrival to the floor, the patient was triggered for 
tachypnea, fever, and altered mental status. The patient was 
lethargic and only intermittently responding to questions. 
Patient was placed on 2L NC. He was noted to be febrile to 
103(100.5 axillary), tachypneic to the high ___, and tachycardic 
to
the 100s. On limited review of systems, the patient denied chest 
pain, nausea, and vomiting.
 
Past Medical History:
___ Disease
 
Social History:
___
Family History:
No family history of ___ disease, no family history of 
any other neurologic disorders.
 
Physical Exam:
Admission Exam
-VITALS: 103.0 PO 156 / 69 107 38-40 92% 2L 
-General: Lethargic, ill-appearing elderly man, intermittently 
sleeping during exam, appears somewhat uncomfortable, speech 
dysarthric
-HEENT: Sclerae anicteric, slightly dry mucous membranes, 
oropharynx clear  
-CV: DBS battery implants, mildly tachycardic, normal rhythm, 
normal S1 + S2, no murmurs, rubs, gallops, or thrills  
-Lungs: Patient belly breathing while sleeping. Clear to 
auscultation bilaterally, no wheezes, rales, rhonchi, tachypnic.
-Abdomen: Soft, non-tender, mildly distended, bowel sounds 
present, no organomegaly, no rebound or guarding  
-GU: Foley catheter in place draining dark orange urine with 
sediment  
-Ext: Warm, well perfused, no clubbing, cyanosis, or lower 
extremity edema
-Skin: Warm, dry, abrasions on bilateral lower extremities   
-Neuro: A&Ox2-3. Bilateral pill-rolling tremor bilaterally. Mild 
cogwheeling. No clonus 

Discharge Exam
-VITALS: T 98.8 BP 134/85 HR 80 RR 20 O2 95 RA  
-General: Alert and interactive, soft and dysarthric speech, NAD
-HEENT: EOMI, PERRL, moist mucous membranes, sclerae anicteric, 
oropharynx clear  
-CV: DBS battery implants, RRR, normal S1,S2, no m/r/g
-Lungs: CTAB, no wheezes, rales, rhonchi
-Abdomen: +bs, soft, non-tender, non distended, no organomegaly, 
no rebound or guarding  
-Ext: Warm, well perfused, no clubbing, cyanosis, or lower 
extremity edema
-Skin: Warm and well-perfused
-Neuro: A&Ox3. Moving all extremities bilaterally equally. Soft 
voice with dysarthric speech
 
Pertinent Results:
Admission Labs
___ 03:00PM BLOOD WBC-22.8*# RBC-4.83 Hgb-15.3 Hct-46.0 
MCV-95 MCH-31.7 MCHC-33.3 RDW-12.8 RDWSD-44.8 Plt ___
___ 03:00PM BLOOD Neuts-83.0* Lymphs-7.5* Monos-7.5 
Eos-0.7* Baso-0.6 Im ___ AbsNeut-18.95*# AbsLymp-1.72 
AbsMono-1.71* AbsEos-0.15 AbsBaso-0.14*
___ 03:00PM BLOOD Plt ___
___ 03:00PM BLOOD Glucose-100 UreaN-11 Creat-0.9 Na-139 
K-4.7 Cl-100 HCO3-22 AnGap-17*
___ 03:00PM BLOOD ALT-7 AST-22 AlkPhos-80 TotBili-0.5
___ 03:00PM BLOOD Albumin-3.9 Calcium-9.4 Phos-3.4 Mg-2.2
___ 10:59PM BLOOD ___ pO2-52* pCO2-37 pH-7.44 
calTCO2-26 Base XS-0 Comment-GREEN TOP
___ 03:38PM BLOOD Lactate-1.7

Discharge Labs
___ 06:50AM BLOOD WBC-11.2* RBC-4.56* Hgb-14.0 Hct-42.7 
MCV-94 MCH-30.7 MCHC-32.8 RDW-12.6 RDWSD-43.4 Plt ___
___ 06:50AM BLOOD Plt ___
___ 06:50AM BLOOD Glucose-82 UreaN-11 Creat-0.6 Na-138 
K-4.0 Cl-100 HCO3-25 AnGap-13
___ 06:50AM BLOOD Calcium-9.5 Phos-3.5 Mg-2.1

CT Head ___ FINDINGS:  Bifrontal approach deep brain stimulator 
leads are unchanged in position.  There is artifact from the 
leads and motion at the vertex.  Within this limitation, there 
is no evidence of infarction, hemorrhage, edema, or mass.  
Periventricular white matter hypodensities are nonspecific, but 
likely represent sequela of chronic small vessel ischemic 
disease.   There is prominence of ventricles and sulci 
suggestive of involutional changes. There is no evidence of 
fracture.  The visualized portion of the paranasal sinuses, 
mastoid air cells, and middle ear cavities are clear.  Patient 
is status post right lens replacement. 

CXR ___ IMPRESSION:  Compared to chest radiographs since ___ most recently ___. Bibasilar peribronchial 
opacification is new, most likely pneumonia, particularly due to 
aspiration. Heart size normal.  No pleural abnormality.  
Stimulator leads head upwards from bilateral pectoral generator 
stops. 

___ 2:00 pm URINE CULTURE: PSEUDOMONAS AERUGINOSA >100,000 
CFU/mL. 
-SENSITIVITIES: MIC expressed in MCG/ML                          
   |   
CEFEPIME--------------     4 S
CEFTAZIDIME-----------     2 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----     8 S
TOBRAMYCIN------------   <=1 S
 
Brief Hospital Course:
Mr. ___ is a ___ year-old man with a history of ___ 
disease w/ DBS device, who presented with slurred speech and a 
grossly positive UA consistent with a UTI. Patient triggered on 
arrival to the medicine floors for likely urosepsis.

ACUTE MEDICAL/SURGICAL ISSUES ADDRESSED:
# Toxic metabolic encephalopathy
# H/o ___ disease
Patient presented with somnolence without focal neurologic 
deficits. He had a Head CT without evidence of infection or 
acute pathology like stroke. Infectious workup was notable for 
pan-sensitive pseudomonas. Chest CT did not demonstrate any new 
consolidation that would be suggestive of a pneumonia. CNS 
infection was considered given acute mental status change and 
presence of DBS; however, patient returned to baseline mental 
status on second day of admission. His lethargy was ultimately 
believed to be due to sepsis, compounded by poor reserve given 
underlying ___ disease. He was started on broad spectrum 
antibiotics transitioned to ciprofloxacin on ___ as per urine 
culture to treat UTI.

# Urinary retention, foley 
# UTI
# Sepsis, presumed urinary source 
Patient presented with leukocytosis, fever and positive UA with 
indwelling foley in the setting of recent admission to ___ 
with sepsis from urinary source. Given history, urinary tract 
infection was thought most likely source. He was started on 
vancomycin and cefepime on upon admission. Foley catheter was 
replaced upon admission to the floor. His urine grew 
pseudomonas, that was pan-sensitive. He was discharged on 
ciprofloxacin to complete total 14 day course on ___. With 
regards to his urinary retention, he was continued on tamsulosin 
0.4mg PO daily and switched to oxybutynin 2.5mg PO BID. He had a 
trial to void ___. He produced ~100 cc and retained ~300cc urine 
with each attempt of urination over the course of the day. 
Straight catheterization was performed once for 500cc urine. 
Foley catheter was replaced prior to discharge secondary to high 
post-void residuals. He will follow up with urology on ___

Antibiotic course
- s/p Ceftazidime 2 g IV Q12H (___)
- s/p 1 day cefepime (___)
- s/p vancomycin 1g IV q8h (___)
- cipro (___)

# Tachypnea, Hypoxia
Patient triggered on arrival to floor on ___ for tachypnea, 
hypoxia. Initially concerning for respiratory compensation in 
the setting of acidosis from sepsis but lactate wnl without 
acidosis on VBG reassuring. No clear consolidation to suggest 
PNA but concerning for aspiration event in the setting of fever, 
AMS. Patient had no resp issues prior to discharge

#?GPC Bacteremia
___ bottles grew coagulase negative gram positive cocci in 
clusters. Believed to be contaminant. Patient was continued on 
Vancomycin until ___ when speciation resulted. 

CHRONIC ISSUES PERTINENT TO ADMISSION:
___ disease: Continued carbidopa-levodopa 3 tablets PO 
in morning, then 2 tablets q2h while awake and as needed 
overnight

#Anxiety: Continued bupropion 300mg PO daily. Held clonazepam 
0.5mg PO BID in setting of AMS.

TRANSITIONAL ISSUES:
[ ] To complete 14 day course of ciprofloxacin for pseudomonas 
UTI (last day ___
[ ] Discharged with foley as failed trial of void w/ outpatient 
urology follow up.
[ ] Home Hospital bed request was filled out and faxed (see CM 
note)

New/changed medications: Ciprofloxacin

Discontinued medications: None

>30 minutes spent on discharge planning 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion XL (Once Daily) 300 mg PO DAILY 
2. Carbidopa-Levodopa (___) 3 TAB PO QAM 
3. Carbidopa-Levodopa (___) 2 TAB PO 6X/DAY 
4. ClonazePAM 0.5 mg PO BID 
5. Oxybutynin 5 mg PO DAILY 
6. Phenazopyridine 200 mg PO TID 
7. Tamsulosin 0.4 mg PO QHS 
8. Carbamide Peroxide 6.5% ___ DROP BOTH EARS BID 
9. Docusate Sodium 100 mg PO DAILY 
10. Sodium Chloride Nasal 2 SPRY NU BID 

 
Discharge Medications:
1.  Ciprofloxacin HCl 250 mg PO Q12H Duration: 9 Days 
Please continue taking this medication twice daily until ___ 
RX *ciprofloxacin HCl 250 mg 1 tablet(s) by mouth twice a day 
Disp #*18 Tablet Refills:*0 
2.  BuPROPion XL (Once Daily) 300 mg PO DAILY  
3.  Carbamide Peroxide 6.5% ___ DROP BOTH EARS BID  
4.  Carbidopa-Levodopa (___) 3 TAB PO QAM  
5.  Carbidopa-Levodopa (___) 2 TAB PO 6X/DAY  
6.  ClonazePAM 0.5 mg PO BID  
7.  Docusate Sodium 100 mg PO DAILY  
8.  Oxybutynin 5 mg PO DAILY  
9.  Phenazopyridine 200 mg PO TID  
10.  Sodium Chloride Nasal 2 SPRY NU BID  
11.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary 
-Sepsis 
-UTI 
-Encephalopathy 
 
Secondary 
-___ Disease 
-Depression 
 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___.

WHY WAS I ADMITTED?
- You came to us because of slurred speech and fever secondary 
to urinary tract infection. 

WHAT WAS DONE FOR ME WHILE I WAS IN THE HOSPITAL?
-We performed a head CT to see if you had a stroke or bleed in 
your brain
-We did various lab tests of your blood and urine to look for an 
infection
-We treated your urinary tract infection with antibiotics
-We continued your home carbidopa-levidopa to manage your 
___ disease
-We removed your urine catheter temporarily to assess how you 
would urinate; we replaced the urine catheter because you were 
not releasing enough urine from your bladder

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
- Please take all of your medications as prescribed.
- Please continue taking ciprofloxacin to complete a 14 day 
course to treat your UTI (last day ___
- Please follow up with your primary care physician and 
urologist as described in this summary
- If you haven any fever, chills, nausea, vomiting, dysuria or 
other danger signs listed below please call your PCP or come to 
the emergency department

Best Wishes,
Your ___ Care Team
 
Followup Instructions:
___